US05849769
Starting material 3-acetyl-2-fluoro-6-methoxyphenetyl-amine, was prepared in following manner: A mixture of 2-Fluoro-4-methoxyacetophenone (5 g) (Fluorochem), ethylene glycol (4 ml), and p-toluensulfonic acid (50 mg) in toluene was refluxed 10 hours to give 5.7 g of 2-(2-fluoro-4-methoxyphenyl)-2-methyl-1,3-dioxolane. This was converted to 2-fluoro-6-methoxy-3-(2-methyl-1,3-dioxol-2-yl)-benzaldehyde according to Example 362 of WO 93/03022. This compound was converted to 2-fluoro-6-methoxy-3-(2-methyl-1,3-dioxol-2-yl)-cinnamic acid ethylester according to the methods described in Example 353 of WO 93/03022. 2-Fluoro-6-methoxy-3-(2-methyl-1,3-dioxol-2-yl)cinnamic acid ethylester was then treated with KOH in dioxane and water to yield 2-fluoro-6-methoxy-3-(2-methyl-1,3-dioxol-2-yl)cinnamic acid. Hydrolysis with aqueous HCl in dioxane gave 3-acetyl-2-fluoro-6-methoxycinnamic acid. N-(3-Acetyl-2-fluoro-6-methoxyphenetyl)-N'-(5-chloropyrid-2-yl)-urea was then prepared in a manner analogous to the method in Example 7. 1H NMR (250 MHz, CDCl3) δ 9.18 (br s, 1H), 8.97 (br s, 1H), 7.85 (d, 1H), 7.83 (t, 1H), 7.51 (dd, 1H), 6.83 (d, 1H), 6.70 (d, 1H), 3.82 (s, 3H), 3.57 (g, 2H), 3.08-2.92 (m, 2H), 2.51 (d, 3H).

reactant | 2-fluoro-6-methoxy-3-(2-methyl-1,3-dioxol-2-yl)-benzaldehyde | FC1=C(C=O)C(=CC=C1C1(OC=CO1)C)OC | C12H11FO4
reactant | 2-fluoro-6-methoxy-3-(2-methyl-1,3-dioxol-2-yl)-cinnamic acid ethylester | C(C)OC(C=CC1=C(C(=CC=C1OC)C1(OC=CO1)C)F)=O | C16H17FO5
reactant | KOH | [OH-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-fluoro-6-methoxy-3-(2-methyl-1,3-dioxol-2-yl)cinnamic acid | FC1=C(C=CC(=O)O)C(=CC=C1C1(OC=CO1)C)OC | C14H13FO5
